US05310743
(2R*,4S*)-2-Benzyl-1-(9-fluorenyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.467 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 25a with 138 mg (0.561 mmol) of 9-bromofluorene and 155 mg (1.12 mmol) of potassium carbonate in 2.5 ml of acetone. The title compound (131 mg, 47%) is obtained as oil. TLC: toluene/ethyl acetate (1:1) Rf =0.43; FD-MS: M+ =591.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.467 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 9-bromofluorene | 0.561 mmol, 138 mg | BrC1C2=CC=CC=C2C=2C=CC=CC12 | C13H9Br
reactant | potassium carbonate | 1.12 mmol, 155 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
product | (2R*,4S*)-2-Benzyl-1-(9-fluorenyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 131 mg, 47% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C1C2=CC=CC=C2C=2C=CC=CC12 | C37H32F3N3O
